US06800648B2
{7-[(Methoxycarbonyl)amino]-8-[1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate
Methyl chloroformate (2.93 mL, 37.9 mmole) was added to a solution of {(2R)-7-amino-8-[1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methyl-benzenesulfonate (2.35 g, 6.30 mmole) in ethyl acetate (125 mL), followed by the addition of N,N-diisopropylethylamine (5.50 mL, 31.6 mmole) dropwise over a period of 20 minutes. The solution was stirred under nitrogen at room temperature over a period of 10 hours. This solution was then washed with 2N aqueous HCl, saturated aqueous sodium bicarbonate and brine and dried over magnesium sulfate. Filtration, evaporation in vacuum and column chromatography on silica gel with 0.2% methanol/methylene chloride gave the (R)-enantiomer of the title compound as a white foam (1.90 g, 70%). 1H (CDCl3) doublet, 7.8 δ (2 H); doublet, 7.3 δ (3 H); doublet, 6.7 δ (1 H); broad singlet, 6.6 δ (1 H); multiplet, 6.1 δ (2 H); multiplet, 4.4 δ (1 H); multiplet 4.2 δ (3 H); multiplet, 4.0 δ (1 H); singlet, 3.7 δ (3 H); singlet, 2.4 δ (3 H); doublet, 1.9 δ (3 H).

reactant | Methyl chloroformate | 37.9 mmole, 2.93 mL | ClC(=O)OC | C2H3ClO2
reactant | {(2R)-7-amino-8-[1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methyl-benzenesulfonate | 6.30 mmole, 2.35 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)N)C=CC | C19H21NO5S
reactant | N,N-diisopropylethylamine | 31.6 mmole, 5.50 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | 125 mL | C(C)(=O)OCC | C4H8O2
product | {7-[(Methoxycarbonyl)amino]-8-[1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate | 1.90 g, 70% | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C(=C(C=C2)NC(=O)OC)C=CC | C21H23NO7S
